US05154930
Aspirin Suspension
To prepare a suspension, desalted egg phosphatides (Hepar) were dissolved in ethanol at a concentration of 250 mg/ml in a 1000 ml flask. To 400 mg of salicylic acid acetate, 1.6 ml of the above solution containing 400 mg of phosphatides was added and the solution adjusted with absolute ethanol to 4 ml. The final concentration of both ingredients in this pharmacological agent-lipid solution was 100 mg/ml. This procedure was performed at about 22.5° C.+/- about 2.5° C. and atmospheric pressure. Then 0.5 ml of the salicylic acid acetate-lipid solution was added to 9.5 ml of distilled water and briefly shaken by hand, at about 22.5° C.+/- about 2.5° C. and atmospheric pressure forming a suspension. The resulting suspension was milky in appearance and did not contain visable crystals or aggregates after a 30 minute period. Light microscopy of the suspension revealed aggregates, primarily with a diameter below 5 microns and no crystal characteristic for salicylic acid acetate. This suspension contained 0.5 mg salicylic acid acetate/ml.

reactant | salicylic acid acetate | 400 mg | C(C)(=O)O.C(C=1C(O)=CC=CC1)(=O)O
reactant | water | 9.5 ml | O | H2O
reactant | salicylic acid acetate | 0.5 mg | C(C)(=O)O.C(C=1C(O)=CC=CC1)(=O)O
solvent | ethanol | C(C)O | C2H6O
product | Aspirin | CC(=O)OC=1C=CC=CC1C(=O)O | C9H8O4
